US09382243B2
Step E. (2S,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(2-hydroxypropan-2-yl)tetrahydro-2H-pyran-3-ol
To a stirred solution of (R)-1-((2R,3 S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)ethanol (21 mg, 0.030 mmol) in anhydrous DCM (1.75 mL) under nitrogen was added pyridine (5 μL, 5 mg, 0.060 mmol) and Dess-Martin periodinane (19 mg, 0.045 mmol). After 1.5 hours, the mixture was filtered and concentrated under reduced pressure. The resultant oily film was dissolved in anhydrous THF (2.0 mL) and cooled to 0° C. Then 3M methylmagnesium bromide (˜0.10 mL, 0.30 mmol) in THF was added portionwise until all of the ketone intermediate was consumed. The reaction mixture was poured into water (30 mL) and extracted with EtOAc (2×30 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure to provide a yellow oily film. The oily film was dissolved in formic acid (1.8 mL) and saturated aqueous potassium hydrogen sulfate (0.2 mL). The reaction mixture was stirred at 50° C. for 1 hour, then allowed to cool to room temperature. The mixture was then poured into saturated aqueous sodium bicarbonate (30 mL), and extracted with EtOAc (2×30 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resultant white solid was dissolved in methanol (10 mL) and treated with 5N NaOH (0.5 mL). After stirring at room temperature for 15 minutes, the mixture was poured into water and neutralized with 1N aqueous HCl to pH 6. The mixture was extracted with EtOAc (2×40 mL). The combined organic layers were washed with brine (30 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant residue was chromatographed using a Biotage™ 20 g (2×10 g in series) silica gel cartridge eluted with 0-10% methanol in DCM over 20 column volumes. The combined product fractions were concentrated under reduced pressure, dissolved in MeCN and water, frozen at −78° C., and lyophilized to dryness to provide the title compound as a white solid. LC-MS: calculated for C26H26ClN3O4 479.16, observed m/e: 480.10 (M+H)+ (Rt 2.22/4 min). 1H NMR δ (ppm)(DMSO-d6): 7.92 (s, 1H), 7.74 (m, 6H), 7.49 (t, J=8.0 Hz, 2H), 7.39 (dd, J=7.5, 7.5 Hz, 1H), 5.30 (s, 1H), 5.02 (heptet, J=5.5 Hz, 1H), 4.25 (m, 1H), 3.74 (m, 1H), 3.29 (t, J=10.0 Hz, 1H), 2.92 (d, J=10 Hz, 1H), 2.60 (m, 1H), 1.64 (q, J=11.5 Hz, 1H), 1.18 (s, 3H), 1.15 (s, 3H).

reactant | (R)-1-((2R,3 S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)ethanol | 0.030 mmol, 21 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)[C@@H](C)O)O[Si](CC)(CC)CC)Cl)C2=CC=CC=C2 | C37H52ClN3O5Si2
reactant | pyridine | 0.060 mmol, 5 μL, 5 mg | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin periodinane | 0.045 mmol, 19 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | methylmagnesium bromide | 0.30 mmol, 3M, ˜0.10 mL | C[Mg]Br
reactant | potassium hydrogen sulfate | 0.2 mL | S(=O)(=O)(O)[O-].[K+]
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 1.75 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | formic acid | 1.8 mL | C(=O)O | CH2O2
product | (2S,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(2-hydroxypropan-2-yl)tetrahydro-2H-pyran-3-ol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)C(C)(C)O)O)Cl)C2=CC=CC=C2 | C26H26ClN3O4
